US08106064B2
2,4-Dichloro-5-isopropyl-6-(2,3,5-trimethyl-phenoxy)-pyrimidine:
Sodium hydride (60%, 59 mg, 1.44 mmol. 1.1 eq.) was added to 2,3,5-trimethyl-phenol (179 mg, 1.31 mmol) in DMF (2 mL). The mixture was stirred at room temperature for 15 minutes and then added to 2,4,6-trichloro-5-isopropyl-pyrimidine (296 mg, 1.31 mmol) in 1 mL DMF. The reaction was stirred at room temperature for 4 hours. Ethyl acetate was added and washed with brine. The organic layer was concentrated down and purified (silica gel, 0-50% EtOAC/hexane) to give white solid (400 mg, 94%). LC-MS shows 325.2 (M+1). 1H NMR (300 MHz, CDCl3): δ 6.94 (s, 1H), 6.63 (s, 1H), 3.61 (m, 1H), 2.32 (s, 6H), 2.02 (s, 3H), 1.42 (d, 6H).

reactant | Sodium hydride | 1.44 mmol, 59 mg, 1.1 eq. | [H-].[Na+]
reactant | 2,3,5-trimethyl-phenol | 1.31 mmol, 179 mg | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | 2,4,6-trichloro-5-isopropyl-pyrimidine | 1.31 mmol, 296 mg | ClC1=NC(=C(C(=N1)Cl)C(C)C)Cl | C7H7Cl3N2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2,4-Dichloro-5-isopropyl-6-(2,3,5-trimethyl-phenoxy)-pyrimidine | 400 mg, 94% | ClC1=NC(=C(C(=N1)Cl)C(C)C)OC1=C(C(=CC(=C1)C)C)C | C16H18Cl2N2O
